US08487108B2
(S)-benzyl 2-amino-3-(4-hydroxycyclohexyl)propyl(methyl)carbamate (1.25 g, 3.9 mmol) was dissolved in 10 mL CH2Cl2, Et3N was added, the mixture was cooled to 0° C. and Boc2O in 5 mL of CH2Cl2 was added dropwise. The reaction mixture was stirred at rt for two hr. The mixture was added 50 mL of CH2Cl2 washed with 10% citric acid solution (20 mL) then with saturated NaHCO3, brine, and dried over Na2SO4. After filtration, solvent removal gave (S)-tert-butyl 1-(4-hydroxycyclohexyl)-3-(N-methyl-N-(benzyloxycarbonyl)amino)propan-2-ylcarbamate (1.1 g, 2.62 mmol).

reactant | (S)-benzyl 2-amino-3-(4-hydroxycyclohexyl)propyl(methyl)carbamate | 3.9 mmol, 1.25 g | N[C@H](CN(C(OCC1=CC=CC=C1)=O)C)CC1CCC(CC1)O | C18H28N2O3
reactant | Et3N | CCN(CC)CC | C6H15N
reactant | Boc2O | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | (S)-tert-butyl 1-(4-hydroxycyclohexyl)-3-(N-methyl-N-(benzyloxycarbonyl)amino)propan-2-ylcarbamate | 2.62 mmol, 1.1 g | OC1CCC(CC1)C[C@@H](CN(C(=O)OCC1=CC=CC=C1)C)NC(OC(C)(C)C)=O | C23H36N2O5
